US04868185
Step 9--Preparation of [R*, S* (E)]-7-[4-(4-fluorophenyl)-2,6-dimethyl-5-pyrimidinyl]-3,5-dihydroxy-6-heptenoic acid, ethyl ester
To a solution of 27.5 g (0.071 mol) of [R*, S* (E)]-7-[4-(4-fluorophenyl)-2,6-dimethyl-5-pyrimidinyl]-5-hydroxy-3-oxo-6-heptenoic acid, ethyl ester and 0.73 g (0.0071 mol) of pivalic acid in 140 mL of anhydrous tetrahydrofuran under a dry air atmosphere at room temperature was added a 1M solution of triethylborane (28.4 mL, 0.0784 mol) in a dropwise manner. This solution was stirred for five minutes before 20 mL of air was bubbled through the solution. The mixture was thencooled to -78° C. and 18 mL of methanol and 2.96 g (0.0784 mol) of sodium borohydride were added. This mixture was stirred at -78° C. for six hours and then poured into 140 mL of ice cold 30% hydrogen peroxide solution at 0° C. This mixture was stirred at room temperature overnight and then diluted with water and extracted with ethylacetate.

reactant | 7-[4-(4-fluorophenyl)-2,6-dimethyl-5-pyrimidinyl]-5-hydroxy-3-oxo-6-heptenoic acid, ethyl ester | FC1=CC=C(C=C1)C1=NC(=NC(=C1C=CC(CC(CC(=O)OCC)=O)O)C)C | C21H23FN2O4
reactant | pivalic acid | 0.0071 mol, 0.73 g | C(C(C)(C)C)(=O)O | C5H10O2
reactant | triethylborane | 0.0784 mol, 28.4 mL | C(C)B(CC)CC | C6H15B
reactant | sodium borohydride | 0.0784 mol, 2.96 g | [BH4-].[Na+]
solvent | tetrahydrofuran | 140 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | methanol | 18 mL | CO | CH4O
product | 7-[4-(4-fluorophenyl)-2,6-dimethyl-5-pyrimidinyl]-3,5-dihydroxy-6-heptenoic acid, ethyl ester | FC1=CC=C(C=C1)C1=NC(=NC(=C1C=CC(CC(CC(=O)OCC)O)O)C)C | C21H25FN2O4
